US06177452B1
An aqueous solution of 1N sodium hydroxide (34 ml) was dropwise added to an ethanol (50 ml) solution of methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate (8.50 g), with cooling with ice. After stirring for 20 minutes with cooling and then for 30 minutes at room temperature, 2N hydrochloric acid was added thereto, and the crystals thus precipitated were collected by filtration to obtain 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid (8.00 g, 99%). This was recrystallized from ethyl acetate to give colorless prisms. mp 169-170° C.

reactant | sodium hydroxide | 1N, 34 ml | [OH-].[Na+]
reactant | methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate | 8.50 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid | 8.00 g, 99% | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
